US08980938B2
60 mg 2-[(4-Hydroxy-benzo[b]thiophene-5-carbonyl)-amino]-2-methyl-propionic acid tert-butyl ester, 70 mg cesium carbonate, 36 mg of (2-bromo-ethoxy)-benzene and 6 mg potassium iodide were dissolved in 1 ml of N,N-dimethylformamide and stirred for 2 h at 60° C. 10 ml of ethyl acetate and 10 ml of brine were added to the reaction. The organic layer was separated and washed again with 10 ml of brine. It was then dried over magnesium sulphate, filtered and concentrated in vacuo. The resulting residue was purified by reversed phase HPLC (acetonitrile/water) to afford 58 mg of 2-methyl-2-{[4-(2-phenoxy-ethoxy)-benzo[b]thiophene-5-carbonyl]-amino}-propionic acid tert-butyl ester.

reactant | 2-[(4-Hydroxy-benzo[b]thiophene-5-carbonyl)-amino]-2-methyl-propionic acid tert-butyl ester | 60 mg | C(C)(C)(C)OC(C(C)(C)NC(=O)C1=C(C2=C(SC=C2)C=C1)O)=O | C17H21NO4S
reactant | cesium carbonate | 70 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (2-bromo-ethoxy)-benzene | 36 mg | BrCCOC1=CC=CC=C1 | C8H9BrO
reactant | potassium iodide | 6 mg | [I-].[K+]
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | brine | 10 ml | [Cl-].[Na+].O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 2-methyl-2-{[4-(2-phenoxy-ethoxy)-benzo[b]thiophene-5-carbonyl]-amino}-propionic acid tert-butyl ester | 58 mg | C(C)(C)(C)OC(C(C)(NC(=O)C1=C(C2=C(SC=C2)C=C1)OCCOC1=CC=CC=C1)C)=O | C25H29NO5S
